US04742052
A mixture of 1-(p-nitrobenzyloxycarbonyl)-4-(p-toluenesulfonyloxy)piperidine (14.78 g) in acetone (222 ml) and sodium iodide (12.71 g) was refluxed for 23 hours. The reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was diluted with ethyl acetate and the extract was washed successively with aqueous 10% sodium sulfite and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and evaporated to give 1-(p-nitrobenzyloxycarbonyl)-4-iodopiperidine.

reactant | 1-(p-nitrobenzyloxycarbonyl)-4-(p-toluenesulfonyloxy)piperidine | 14.78 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)OS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C20H22N2O7S
reactant | sodium iodide | 12.71 g | [I-].[Na+]
solvent | acetone | 222 ml | CC(=O)C | C3H6O
product | 1-(p-nitrobenzyloxycarbonyl)-4-iodopiperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)I)C=C1 | C13H15IN2O4
